US06541504B1
3-(6Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one
To a solution containing oxindole (0.5 g, 3.76 mmol) in 7.5 mL DMF was added 7.51 mL of sodium hexamethyldisilazane (1.0 M in THF) over 3 min. After stirring 10 min at room temperature, a solution of 6-aminophthalide (0.672 g, 4.51 mmol) in 4.0 mL DMF was added over 3 min. The reaction was stirred for 50 min at room temperature and then poured into 4% HCl to give a yellow solid. The solid was filtered to a wet cake and then partitioned between EtOAc and saturated NaHCO3. Then the mixture was heated to dissolve the solid. The organic phase was washed with H2O, brine and then dried with Na2SO4. The solvent was removed in vacuo and the resultant solid triturated with CHCl3 to afford the title compound (445 mg, 45%) as a yellow solid.

reactant | oxindole | 3.76 mmol, 0.5 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hexamethyldisilazane | 1.0 M, 7.51 mL | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | 6-aminophthalide | 4.51 mmol, 0.672 g | NC1=CC=C2COC(=O)C2=C1 | C8H7NO2
reactant | HCl | Cl | ClH
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | 3-(6Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 445 mg, 45% | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C16H12N2O2
